US04898872
N-(1-Oxo-3-methylbut-2-en-yl)-2-methylaniline
3-Methylbut-2-en-oylchloride (24.2 g) was added dropwise to a stirred solution of 2-methylaniline (20 g) in anhydrous pyridine (200 cm3) cooled to 0°. After 1 hour solvent was evaporated in vacuo to yield a solid which was recrystallised from ether/petroleum ether (boiling range 40-60) to afford the title compound, m.p. 105 (29.5 g).

reactant | 3-Methylbut-2-en-oylchloride | 24.2 g | CC(=CC(=O)Cl)C | C5H7ClO
reactant | 2-methylaniline | 20 g | CC1=C(N)C=CC=C1 | C7H9N
solvent | pyridine | 200 cm3 | N1=CC=CC=C1 | C5H5N
product | N-(1-Oxo-3-methylbut-2-en-yl)-2-methylaniline | O=C(C=C(C)C)NC1=C(C=CC=C1)C | C12H15NO
